US04605674
To a stirred solution containing 196 mg of 2'-hydroxy-4',6'-dimethoxyacetophenone and 150 mg of anisaldehyde in 3 ml of ethanol was added 50% aqueous potassium hydroxide (3 ml). After being stirred at room temperature for 3 days, the mixture was poured into 30 ml of cold water. The mixture was then extracted with three 30 ml portions of ethyl acetate. The combined ethyl acetate extracts were washed with water, dried over anhydrous sodium sulfate and then evaporated under reduced pressure to give a crystalline residue. Recrystallization of the residue from methanol gave 182 mg (50% yield) of 2'-hydroxy-4,4',6'-trimethoxychalcone as yellow needles: m.p. 110.7° C.

reactant | 2'-hydroxy-4',6'-dimethoxyacetophenone | 196 mg | OC1=C(C(=CC(=C1)OC)OC)C(C)=O | C10H12O4
reactant | anisaldehyde | 150 mg | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | potassium hydroxide | 3 ml | [OH-].[K+]
reactant | water | 30 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2'-hydroxy-4,4',6'-trimethoxychalcone | 182 mg, 50% yield | OC1=C(C(C=CC2=CC=C(C=C2)OC)=O)C(=CC(=C1)OC)OC | C18H18O5
